US08404684B2
4-Methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-ylamine
This material is prepared by the procedure outlined for intermediate AC, replacing 4,6-dimethyl-pyrimidine-2-thiol in the first step (AC1) with 4-methyl-2-methylsulfanyl-pyrimidine.

reactant | 4,6-dimethyl-pyrimidine-2-thiol | CC1=NC(=NC(=C1)C)S | C6H8N2S
reactant | 4-methyl-2-methylsulfanyl-pyrimidine | CC1=NC(=NC=C1)SC | C6H8N2S
product | 4-Methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-ylamine | CC=1N=C(SC1C1=NC(=NC=C1)SC)N | C9H10N4S2
